US04582909
A solution of 2-nitro-1,3-benzenediacetic acid dimethyl ester (5.98 g, 0.022 mole) in tetrahydrofuran and methanol (2:1, 100 ml) is treated with hydrogen gas in the presence of 20% Pd/C for 18 hours. The mixture is filtered and concentrated at reduced pressure to yield 2,3-dihydro-2-oxo-1H-indole-7-acetic acid methyl ester. Final purification is accomplished using flash chromatography on silica (elution with 1:19 methanol:dichloromethane) and results in pure 2,3-dihydro-2-oxo-1H-indole-7-acetic acid methyl ester, mp 156°-157° C.

reactant | 2-nitro-1,3-benzenediacetic acid dimethyl ester | 0.022 mole, 5.98 g | COC(CC1=C(C(=CC=C1)CC(=O)OC)[N+](=O)[O-])=O | C12H13NO6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2,3-dihydro-2-oxo-1H-indole-7-acetic acid methyl ester | COC(CC=1C=CC=C2CC(NC12)=O)=O | C11H11NO3
